US07012075B2
To tert-butyl 4-[4-(4-{bis[(2,2,2-trichloroethoxy)carbonyl]amino}-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate (1.21 g, 1.74 mmol) in THF (25 mL) was added an aqueous solution of NaOH (1.0 M, 4.0 mL, 4.0 mmol) dropwise and the reaction mixture was stirred for 1 hour. The reaction was poured into brine and the product extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 3/7) to afford tert-butyl 4-[4-(4-{[(2,2,2-trichloroethoxy)carbonyl]amino}-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate.

reactant | tert-butyl 4-[4-(4-{bis[(2,2,2-trichloroethoxy)carbonyl]amino}-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate | 1.74 mmol, 1.21 g | ClC(COC(=O)N(C=1C(=NON1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC(Cl)(Cl)Cl)(Cl)Cl | C23H25Cl6N5O7
reactant | NaOH | 4.0 mmol, 1.0 M, 4.0 mL | [OH-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 4-[4-(4-{[(2,2,2-trichloroethoxy)carbonyl]amino}-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate | ClC(COC(=O)NC=1C(=NON1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)(Cl)Cl | C20H24Cl3N5O5
